US04046900
By following the manipulative procedure described above in Example 4(a), 32.0 g of 1-acetylisonipecotoyl chloride, [Example 1(b)] are added to a stirring solution of 30.6 g of diphenylether and 45.3 g of aluminum chloride in 100 ml of ethylene dichloride to produce a yellow oil of 1-acetyl-4-(4-phenoxybenzoyl)piperidine.

reactant | 1-acetylisonipecotoyl chloride | 32.0 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | diphenylether | 30.6 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | aluminum chloride | 45.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | ethylene dichloride | 100 ml | C(CCl)Cl | C2H4Cl2
product | 1-acetyl-4-(4-phenoxybenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H21NO3
